US04152497
Preparation of Bis(1-hydroxy, 2,2,2-trichloroethyl)urea
This compound has previously been prepared by Chattaway and James [Proc. Roy. Soc., A134 372 (1931)]. A mixture of chloral (162.2 g, 1.1 mole), H2O (100 ml), and concentrated HCl (150 ml) was stirred at 70°-80° C. Urea (30 g, 0.5 moles) was added all at once and the resulting mixture was stirred for 5 hours. The white precipitate which formed was filtered, and then washed with water until the pH of the wash water was 7. The product was then recrystallized from aqueous EtOH to give white needles; 57% yield, m.p. 193°-194° C.

reactant | chloral | 1.1 mole, 162.2 g | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | HCl | 150 ml | Cl | ClH
reactant | Urea | 0.5 moles, 30 g | NC(=O)N | CH4N2O
solvent | H2O | 100 ml | O | H2O
product | Bis(1-hydroxy, 2,2,2-trichloroethyl)urea | 57% yield | OC(C(Cl)(Cl)Cl)NC(NC(C(Cl)(Cl)Cl)O)=O | C5H6Cl6N2O3
